US08008507B2
14.29 g of 2-cyanofluorene, 8.9 g of sodium hydride (60% in oil) and 150 ml of NMP were stirred at room temperature for 2.5 hours. Then, 31.2 g of methyl iodide was added into the reaction mixture drop-wisely and stirred for an additional 2 hours at room temperature. The reaction mixture was poured into 200 ml of water and filtered. The crude product was purified by column chromatography, giving 8.5 g (60%) of 2-cyano-9,9-dimethylfluorene.

reactant | 2-cyanofluorene | 14.29 g | C(#N)C1=CC=2CC3=CC=CC=C3C2C=C1 | C14H9N
reactant | sodium hydride | 8.9 g | [H-].[Na+]
reactant | NMP | 150 ml | CN1CCCC1=O | C5H9NO
reactant | methyl iodide | 31.2 g | CI | CH3I
solvent | water | 200 ml | O | H2O
product | 2-cyano-9,9-dimethylfluorene | 8.5 g, 60% | C(#N)C1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C | C16H13N
